* source OSC_WIEN
C_C1         0 N259788  10n  TC=0,0 
R_R1         N2595951 N259788  5.3k TC=0,0 
R_R3         N259806 N259788  5.3k TC=0,0 
C_C2         N259810 N260764  10n  TC=0,0 
R_R5         0 N259988  3.9k TC=0,0 
R_R6         N260034 N2598620  150 TC=0,0 
Q_Q7         N259988 N259988 N2598620 QBC846B 
Q_Q8         N260255 N259988 N2599231 QBC846B 
R_R7         N260034 N2599231  150 TC=0,0 
Q_Q9         N261078 N259988 N2600621 QBC846B 
Q_Q10         N260764 N259988 N2600921 QBC846B 
R_R8         N260034 N2600621  68 TC=0,0 
R_R9         N260034 N2600921  22 TC=0,0 
R_R10         N260359 N260255  100 TC=0,0 
R_R11         N260255 N260366  100 TC=0,0 
Q_Q3         N260440 N259788 N260359 QBC846B 
Q_Q4         N260432 N260543 N260366 QBC846B 
Q_Q2         N2603962 N260432 N260432 QBC856B 
Q_Q1         N2604262 N260432 N260440 QBC856B 
R_R12         N2604262 N2604770  100 TC=0,0 
R_R13         N2603962 N2604930  100 TC=0,0 
R_R14         N2604930 N260539  100 TC=0,0 
R_R15         N2604770 N260539  100 TC=0,0 
X_R16         N260543 N260543 0 POT PARAMS: SET=0.123 VALUE=10k
R_R17         N260543 N260745  1.8k TC=0,0 
R_R18         N260745 N260749  100 TC=0,0 
R_R19         N260749 N260764  1k TC=0,0 
D_D1         N260764 N260749 D1N4148 
D_D2         N260749 N260764 D1N4148 
Q_Q5         N261078 N260440 N261160 QBC856B 
Q_Q6         N260539 N261078 N260764 QBC846B 
D_D3         N260539 N261160 D1N4148 
C_C3         N260440 N261078  47p  TC=0,0 
R_R22         0 N261893  2.7k TC=0,0 
R_R23         0 N261893  2.7k TC=0,0 
V_V1         N260539 0 13
R_R24         0 N262462  2.7k TC=0,0 
R_R25         0 N262462  2.7k TC=0,0 
V_V2         0 N260034 13
X_R26         0 N270892 N260764 POT PARAMS: SET=1 VALUE=10k
X_D6         N260539 N261893 LED PARAMS: IS=2.0601e-026 RS=20  BV=5 IBV=5e-6   
+       
X_D7         N262462 N260034 LED PARAMS: IS=2.0601e-026 RS=20  BV=5 IBV=5e-6   
+       
R_R27         0 N270892  800 TC=0,0 
X_R28         N259810 N259806 N259806 POT PARAMS: SET=1 VALUE=50k
X_R29         N2595951 0 0 POT PARAMS: SET=1 VALUE=50k
